US07183292B2
Step D—Preparation of 2-[(S)-1-(8-Methylaminooctyl)pyrrolidin-3-yl]-2,2-diphenylacetamide Nalphthalene-1,5-disulfonic Acid Salt
To an 1 L flask was added 2-[(S)-1-(8-methylaminooctyl)pyrrolidin-3-yl]-2,2-diphenylacetamide naphthalene-1,5-disulfonic acid salt (21.4 g, 30.1 mmol) and isopropanol containing 3% water by volume (637 mL). The resulting slurry was stirred at 80° C. for 2 hours and then slowly cooled to room temperature and then stirred at room temperature for 12 hours. The resulting crystalline salt was filtrated, washed with isopropanol (600 mL) and then dried under vacuum and nitrogen for 16 hours at room temperature to give the title compound as a white, crystalline solid (20.4 g, 96% yield).

reactant | 2-[(S)-1-(8-methylaminooctyl)pyrrolidin-3-yl]-2,2-diphenylacetamide naphthalene-1,5-disulfonic acid salt | 30.1 mmol, 21.4 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.CNCCCCCCCCN1C[C@@H](CC1)C(C(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[(S)-1-(8-Methylaminooctyl)pyrrolidin-3-yl]-2,2-diphenylacetamide | CNCCCCCCCCN1C[C@@H](CC1)C(C(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H39N3O
